US07741347B2
Step 2: (S)-1-Phenylethyl(R)-2-(4-hydroxy-4-methylpiperidin-1-yl)-2-phenylacetate:
To a solution of (S)-1-phenylethyl 2-bromo-2-phenylacetate (0.464 g, 1.45 mmol) in THF (8 mL) was added triethylamine (0.61 mL, 4.35 mmol), followed by tetrabutylammonium iodide (0.215 g, 0.58 mmol). The reaction mixture was stirred at room temperature for 5 minutes and then a solution of 4-methyl-4-hydroxypiperidine (0.251 g, 2.18 mmol) in THF (2 mL) was added. The mixture was stirred for 1 hour at room temperature and then it was heated at 55-60° C. (oil bath temperature) for 4 hours. The cooled reaction mixture was then diluted with ethyl acetate (30 mL), washed (H2O×2, brine), dried (MgSO4), filtered and concentrated. The residue was purified by silica gel chromatography (0-60% ethyl acetate-hexane) to provide first the (S,R)-isomer of the title compound (0.306 g, 60%) as a white solid and then the corresponding (S,S)-isomer (0.120 g, 23%), also as a white solid. (S,R)-isomer: 1H NMR (CD3OD) δ 7.51-7.45 (m, 2H), 7.41-7.25 (m, 8H), 5.85 (q, J=6.6 Hz, 1H), 4.05 (s, 1H), 2.56-2.45 (m, 2H), 2.41-2.29 (m, 2H), 1.71-1.49 (m, 4H), 1.38 (d, J=6.6 Hz, 3H), 1.18 (s, 3H). LCMS: Anal. Calcd. for C22H27NO3: 353. found: 354 (M+H)+. (S,S)-isomer: 1H NMR (CD3OD) δ 7.41-7.30 (m, 5H), 7.20-7.14 (m, 3H), 7.06-7.00 (m, 2H), 5.85 (q, J=6.6 Hz, 1H), 4.06 (s, 1H), 2.70-2.60 (m, 1H), 2.51 (dt, J=6.6, 3.3 Hz, 1H), 2.44-2.31 (m, 2H), 1.75-1.65 (m, 1H), 1.65-1.54 (m, 3H), 1.50 (d, J=6.8 Hz, 3H), 1.20 (s, 3H). LCMS: Anal. Calcd. for C22H27NO3: 353. found: 354 (M+H)+.

reactant | (S)-1-phenylethyl 2-bromo-2-phenylacetate | 1.45 mmol, 0.464 g | BrC(C(=O)O[C@@H](C)C1=CC=CC=C1)C1=CC=CC=C1 | C16H15BrO2
reactant | triethylamine | 4.35 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-4-hydroxypiperidine | 2.18 mmol, 0.251 g | CC1(CCNCC1)O | C6H13NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.58 mmol, 0.215 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (S)-1-Phenylethyl(R)-2-(4-hydroxy-4-methylpiperidin-1-yl)-2-phenylacetate | 0.306 g, 60% | OC1(CCN(CC1)[C@@H](C(=O)O[C@@H](C)C1=CC=CC=C1)C1=CC=CC=C1)C | C22H27NO3
